US08048909B2
To a solution (10 mL) of 5-phenyl-1H-pyrrole-3-carbaldehyde (100 mg) in tetrahydrofuran was added sodium hydride (60% in oil, 47 mg) at room temperature, and the mixture was stirred for 30 min. 15-Crown-5 (257 mg) was added dropwise, and the mixture was stirred for 30 min. (3-Thienyl)sulfonyl chloride (160 mg) was added, and the mixture was further stirred for 1 hr. Saturated brine was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=4:1→3:2) to give 5-phenyl-1-(3-thienylsulfonyl)-1H-pyrrole-3-carbaldehyde as a colorless oil. The obtained oil was dissolved in methanol (10 mL), a 2 mol/L tetrahydrofuran solution (2.1 mL) of dimethylamine was added at room temperature, and the mixture was stirred for 30 min. Sodium borohydride (47 mg) was added at room temperature, and the mixture was stirred for 10 min. 1 mol/L Hydrochloric acid (30 mL) was added, and the mixture was stirred for 5 min. The reaction mixture was alkalized with a saturated aqueous sodium hydrogencarbonate solution and extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: ethyl acetate-methanol=4:1), and dissolved in ethyl acetate (5 mL). A 4 mol/L hydrogen chloride-ethyl acetate solution (1 mL) was added, and the mixture was concentrated under reduced pressure. The residue was crystallized from ethyl acetate to give the title compound as colorless crystals (yield 70 mg, 45%).

reactant | 5-phenyl-1H-pyrrole-3-carbaldehyde | 10 mL, 100 mg | C1(=CC=CC=C1)C1=CC(=CN1)C=O | C11H9NO
reactant | sodium hydride | 47 mg | [H-].[Na+]
reactant | 15-Crown-5 | 257 mg | C1COCCOCCOCCOCCO1 | C10H20O5
reactant | (3-Thienyl)sulfonyl chloride | 160 mg | S1C=C(C=C1)S(=O)(=O)Cl | C4H3ClO2S2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
product | 5-phenyl-1-(3-thienylsulfonyl)-1H-pyrrole-3-carbaldehyde | C1(=CC=CC=C1)C1=CC(=CN1S(=O)(=O)C1=CSC=C1)C=O | C15H11NO3S2
